US05856529
Step 2: (±)-(trans)- 2-(2,3-Dihydrobenzofuran-4-yl)cyclopropanecarboxaldehyde
A solution of (±)-(trans)-N-methoxy-N-methyl-2-(2,3-dihydrobenzofuran-4-yl)cyclopropanecarboxamide (3.7 g, 15 mmol) in THF (10 mL) was added dropwise to a rapidly stirred suspension of LAH (683 mg, 18 mmol) in THF (50 mL) at -45° C., maintaining the temperature below -40° C. throughout. The cooling bath was removed, the reaction was allowed to warm to 5° C., and then the reaction was immediately recooled to -45° C. Potassium hydrogen sulfate (3.4 g, 25.5 mmol) in H2O (50 mL) was cautiously added dropwise, the temperature maintained below -30° C. throughout. The cooling bath was removed and the suspension was stirred at room temperature for 30 min. The mixture was filtered through Celite and the filter cake was washed with ether. The combined filtrates were then washed with cold 1N HCl, 1N NaOH, and brine. The filtrates were dried over MgSO4, and concentrated in vacuo to give a clear oil (2.6 g, 99%).

reactant | (±)-(trans)-N-methoxy-N-methyl-2-(2,3-dihydrobenzofuran-4-yl)cyclopropanecarboxamide | 15 mmol, 3.7 g | CON(C(=O)[C@H]1[C@@H](C1)C1=CC=CC2=C1CCO2)C | C14H17NO3
reactant | LAH | 18 mmol, 683 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | Potassium hydrogen sulfate | 25.5 mmol, 3.4 g | S(=O)(=O)(O)[O-].[K+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | H2O | 50 mL | O | H2O
product | (±)-(trans)- 2-(2,3-Dihydrobenzofuran-4-yl)cyclopropanecarboxaldehyde | 2.6 g, 99% | O1CCC2=C1C=CC=C2[C@H]2[C@@H](C2)C=O | C12H12O2
